US09260436B2
A mixture of 3.95 g of 6-bromo-5-methyl-2-pentafluoroethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide and 20 ml of ethanol was stirred under heat-reflux for 1 day. The cooled reaction mixture was concentrated under reduced pressure, then water and a saturated aqueous sodium bicarbonate solution were added, and the precipitated solid was taken by filtration. The resulting solid was dried to obtain 2.92 g of 6-bromo-5-methyl-2-pentafluoroethylimidazo[1,2-a]pyridine.

reactant | 6-bromo-5-methyl-2-pentafluoroethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide | 3.95 g | Br.BrC=1C=CC=2N(C1C)CC(N2)(O)C(C(F)(F)F)(F)F
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-bromo-5-methyl-2-pentafluoroethylimidazo[1,2-a]pyridine | 2.92 g | BrC=1C=CC=2N(C1C)C=C(N2)C(C(F)(F)F)(F)F | C10H6BrF5N2
